US05665888
Synthesis of (Z)-2-(2-dimethylaminomethyliden aminothiazol-4-yl)-2-methoxyiminoacetyl chloride.hydrochloride
Dimethylformamide (0.8 g, 11 mmol) was added to 9 of tetrahydrofuran, followed by ice-cooling. To the resulting mixture, 0.6 ml of trichloromethyl chloroformate was added dropwise under ice-cooling. After stirring the resulting mixture for 30 minutes, the mixture was cooled to -10° C. (Z)-2-(2-Amino-thiazol-4-yl)-2-methoxyiminoacetic acid (840 mg, 4.2 mmol) was added and the mixture so obtained was stirred for 2 hours. The mixture was added with 9 ml of isopropyl acetate, followed by stirring for 30 minutes. A precipitate was collected by filtration under a nitrogen gas stream and then dried at room temperature, whereby 1.23 g of the title compound were obtained (yield: 94%).

reactant | Dimethylformamide | 11 mmol, 0.8 g | CN(C=O)C | C3H7NO
reactant | trichloromethyl chloroformate | 0.6 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | (Z)-2-(2-Amino-thiazol-4-yl)-2-methoxyiminoacetic acid | 4.2 mmol, 840 mg | NC=1SC=C(N1)/C(/C(=O)O)=N/OC | C6H7N3O3S
reactant | isopropyl acetate | 9 ml | C(C)(=O)OC(C)C | C5H10O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (Z)-2-(2-dimethylaminomethyliden aminothiazol-4-yl)-2-methoxyiminoacetyl chloride.hydrochloride | 1.23 g, yield: 94% | Cl.CN(C)C=NC=1SC=C(N1)/C(/C(=O)Cl)=N/OC | InChI=1S/C9H11ClN4O2S.ClH/c1-14(2)5-11-9-12-6(4-17-9)7(8(10)15)13-16-3;/h4-5H,1-3H3;1H/b11-5?,13-7-;
